Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Neck pain, dyspnea
 
Major Surgical or Invasive Procedure:
___ - Extraction of teeth #22, 23, 26 and 27.
___ - Mitral valve repair with radical reconstruction and 
30 ___ II annuloplasty ring.

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history severe chronic 
obstructive pulmonary disease, mitral valve prolapse, mitral 
regurgitation and pulmonary hypertension. She presented to an 
OSH for transesophageal echocardiographic (TEE) evaluation of 
her mitral valve. At that time, her oxygen saturations were 
noted to be 85% on room air and the decision was made transfer 
her to ___ in order to the perform transesophageal 
echocardiogram under anesthesia.  

On the floor, she denied shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, or diarrhea. She noted an 
ongoing cough which she has had for years that was unchanged 
over the last 3 months. There has been no change in her 
exertional shortness of breath over the last few months. She 
also noted lower extremity edema that she has been prescribed 
Lasix, which she takes intermittently. 

Echocardiogram on ___ demonstrated moderate to severe 
posterior leaflet mitral valve prolapse. Torn mitral chordae 
were present. An eccentric, anteriorly directed jet of mild to 
moderate (___) mitral regurgitation was present. Given these 
findings she was referred to cardiac surgery to evaluate for 
mitral valve repair versus replacement.  
 
Past Medical History:
Breast Cancer status post lumpectomy, radiation and tamoxifen, 
in remission since ___  
Cervical Radiculopathy  
Chronic Obstructive Pulmonary Disease
Congestive Heart Failure, diastolic
Hypertension
Mitral Valve Prolapse
Osteoarthritis  
Pulmonary Hypertension
 
Social History:
___
Family History:
Brother died in
his ___ s/p myocardial infarction

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
Pulse: 81  BP: 127/79  RR: 20  O2 sat: 90% RA
Height: 65"   Weight: 85.3 kg

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Decreased especially at bases b/l. Lungs clear 
bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] 
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [] 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: +  Left: +
DP           Right: +  Left: +
___           Right: +  Left: +
Radial       Right: +  Left: +

Carotid Bruit        Right: -    Left: -

 
Pertinent Results:
ADMISSION LABS
==============

___ 07:15PM BLOOD WBC-8.1 RBC-5.53* Hgb-17.3* Hct-53.0* 
MCV-96 MCH-31.3 MCHC-32.6 RDW-13.7 RDWSD-48.2* Plt ___
___ 07:15PM BLOOD ___ PTT-33.2 ___
___ 07:15PM BLOOD Plt ___
___ 07:15PM BLOOD Glucose-94 UreaN-23* Creat-1.6* Na-140 
K-3.5 Cl-93* HCO3-34* AnGap-17
___ 07:15PM BLOOD ALT-11 AST-21 LD(LDH)-262* AlkPhos-97 
TotBili-0.5
___ 07:15PM BLOOD Albumin-4.6 Calcium-10.3 Phos-4.9* Mg-1.9

Transesophageal Echocardiogram ___
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is 
moderate/severe posterior leaflet mitral valve prolapse. Torn 
mitral chordae are present. An eccentric, anteriorly directed 
jet of Mild to moderate (___) mitral regurgitation is seen. Due 
to the eccentric nature of the regurgitant jet, its severity may 
be significantly underestimated (Coanda effect). The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

CT CHEST ___
1. Heavy atherosclerotic calcification is identified at the 
aortic arch and
along the descending aorta.
2. Diffuse mild bronchial wall thickening may reflect 
bronchitis, infectious or inflammatory.
3. Moderate emphysema.
4. A 3 mm solid nodule in the right upper lobe does not require 
follow-up
unless patient has high risk of malignancy, in which case 12 
month followup
chest CT is recommended.

Pulmonary Function Tests ___
Severe obstructive ventilatory defect with evidence of gas 
trapping. The reduced DLCO suggests an emphysematous process. 
There are no prior studies available for comparison.

Transesophageal Echocardiogram ___
The left atrium is dilated. No atrial septal defect is seen by 
2D or color Doppler. Overall left ventricular systolic function 
is normal (LVEF>55%). [Intrinsic left ventricular systolic 
function is likely more depressed given the severity of valvular 
regurgitation.] with normal free wall contractility. There are 
simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are myxomatous. There is severe P2 eaflet 
mitral valve prolapse resulting in moderate to severe (3+) 
mitral regurgitation is seen. The mitral regurgitation vena 
contracta is >=0.7cm. The tricuspid valve leaflets are mildly 
thickened. Tricuspid valve prolapse is present. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 

IMPRESSION: Severe P2 mitral valve prolapse with moderate to 
severe mitral regurgitation.  

Cardiac Catheterization ___
Dominance: Right
LMCA: normal
LAD: normal
LCX: dominant and normal
RCA: small, non-dominant vessel with no significant disease

Transesophageal Echocardiogram (intraoperative) ___
PREBYPASS
No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. Left ventricular wall thicknesses are 
normal. Regional left ventricular wall motion is normal. Overall 
left ventricular systolic function is normal (LVEF>55%). 
[Intrinsic left ventricular systolic function is likely more 
depressed given the severity of valvular regurgitation.] Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. There is 
moderate/severe p2 leaflet mitral valve prolapse. Moderate to 
severe (3+) mitral regurgitation is seen. There is no 
pericardial effusion. Dr. ___ was notified in person 
of the results on ___ in the operating room. 

POSTBYPASS
Patient is receiving an infusion of Phenylephrine. LVEF= 45

CT Chest ___
1. Post mitral valve replacement with extensive subcutaneous 
emphysema and 
nonhemorrhagic mediastinal fluid collection, which cannot be 
completely 
assessed without intravenous contrast. 
2. Large left pneumothorax, increased in size since chest 
radiograph this 
morning, and moderate right pneumothorax, despite the presence 
of multiple 
chest tubes.  Bilateral pigtail and possibly the left laterally 
entering chest tubes terminate within the lung parenchyma. 
3. Extensive airspace consolidation in the left lung likely 
hemorrhage and 
atelectasis, possibly pneumonia. 
4. Small left greater than right pleural effusions likely 
unchanged from 
radiograph earlier this morning. 
5. Pulmonary hypertension. 

CT Chest ___
1.  Emphysema is not optimally assessed in the setting of 
widespread acute 
parenchymal lung disease. With this limitation in mind, 
emphysema is at least moderate in severity, demonstrates 
predominantly centrilobular features, and upper lung 
predominance. 
2. Decrease in size of left pneumothorax with small residual 
pneumothorax 
remaining. 
3. Increase in size of right pneumothorax with moderate residual 
pneumothorax remaining. 
4.  Worsening multifocal airspace consolidation in the left 
upper lobe and 
lingula is concerning for multifocal pneumonia in the 
appropriate clinical 
setting. Worsening partial collapse of the right lower lobe. 
5.  Decrease in extent of subcutaneous emphysema. 

DISCHARGE LABS
===============

___ 06:59AM BLOOD WBC-7.8 RBC-2.86* Hgb-8.8* Hct-28.8* 
MCV-101* MCH-30.8 MCHC-30.6* RDW-15.4 RDWSD-56.1* Plt ___
___ 06:59AM BLOOD Plt ___
___ 06:59AM BLOOD Glucose-85 UreaN-21* Creat-0.7 Na-138 
K-4.3 Cl-98 HCO3-30 AnGap-14
___ 09:29AM BLOOD Glucose-101* UreaN-21* Creat-0.9 Na-141 
K-4.3 Cl-99 HCO3-32 AnGap-14
___ 01:41AM BLOOD ALT-96* AST-142* LD(___)-286* AlkPhos-73 
Amylase-37 TotBili-0.4
___ 01:57AM BLOOD ALT-111* AST-235* LD(___)-376* AlkPhos-70 
Amylase-36 TotBili-0.4

CXR ___
IMPRESSION:  

Compared  to  chest  radiographs  ___  through  ___.

Consolidation  throughout  the  left  lung  is  more  pronounced 
 today  than  recently suggesting  infection  or  bleeding.    
Small  right  pleural  effusion  has  increased.
Right  basal  atelectasis  unchanged.    No  pneumothorax  on  
either  side.    Cardiac silhouette  is  substantially  obscured 
 by  left  lung  abnormality,  but  not  grossly enlarged.

 
Brief Hospital Course:
 ASSESSMENT AND PLAN  
 ___ yo woman w/ severe COPD, mitral valve prolapse, at least 
moderate mitral regurgitation with new diagnoses of pulmonary 
hypertension and congestive heart failure 64% who presents for 
high risk TEE evaluation w/ anesthesia for her worsening MR and 
potential evaluation for surgical treatment.  
 
 # Mitral insufficiency- Pt needed to undergo TEE at OSH, but it 
was considered a high risk procedure because of her resting 
hypoxia (currently sating 87-92%RA) as well as advanced COPD. It 
was suggested that she should get this procedure at a tertiary 
care ___ so she was directed to ___. She underwent TEE 
which showed severe mitral regurgitation. She was felt to be a 
candidate for valve replacement surgery pending pulmonary 
evaluation and was transferred to the CT surgery service after 
patient reached euvolemia. 
 
 # diastolic CHF- EF from last ECHO 64%. Moderate MR noted 
___ of which could be underestimated ___ eccentricity). 
Recent significant increase in BLE edema over the last 3 months, 
worse than it ever has been in her life, which has gradually 
improved w/ home diuresis, but she is still fluid overloaded on 
exam. Per pt she has been on Lasix for the last ___ yrs for BLE 
edema, and on ___ visited cardiologist who changed her diuretic 
from furosemide 40AM and 20PM to torsemide 20 BID + 
spironolactone 12.5 daily.  She was diuresed with IV lasix and 
then transitioned to torsemide PO. Patient had RHC that 
demonstrated RA pressure of 7 mmHg prior to surgery. She 
remained euvolemic until transfer to CT surgery. 

 # COPD - Per PFTs from ___, moderate obstructive 
dysfunction with evidence for hyperinflation and air trapping. 
The patient has a low resting saturation of 91% and dropped to a 
low of 86% during recovery after walking 100 feet. Compared to 
PFTs from ___, FEV1 has dropped from 72% of predicted -> 64% of 
predicted. There was similar hyperinflation and worse air 
trapping in ___. Exercise oximetry has worsened. The lowest 
saturation with walking 500 feet in ___ was 92%. Of note, the 
respiratory therapist states the patient refused home oxygen 
setup after the most recent PFTs.  Patient received PFTs in 
hospital, which demonstrated improved FEV1. She was felt after 
testing to meet risk parameters to proceed with valve surgery. 
  
 # CAD- Evidence of mild inferior wall ischemia on nuclear 
stress ___, but she has never been cathed. Pt has no symptoms 
of angina, but has some exertional SOB, unchanged over the last 
3 months. Pt was on aspirin once upon a time but self d/ced 
because she was on too many pills, per her. Her home simvastatin 
was continued and an aspirin was added to her regimen daily.
  
 # Pulmonary hypertension- Pt has new diagnosis of pHTN on 
recent ECHO, which could be secondary to COPD, to mitral valve 
disease, or diastolic CHF.

TRANSITIONAL ISSUES
===================
 # CODE: Full  
 # CONTACT: son ___ (___) ___  
Postoperative Cardiac Surgery Course:
___
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent MV repair 
and ring with 30mm ___ II ring, neo cord x 3. Had 
re-exploration in the OR.  Please see operative note for 
details. Post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  She arrived 
from the OR intubated on phenylephrine and vasopressin. POD 1 
found the patient extubated, alert and oriented and breathing 
comfortably.  The patient was neurologically intact and 
hemodynamically stable and weaned off inotropic or vasopressor 
support. She had persistent air leak from CTs. Pressor therapy 
was restarted on POD2. She developed significant subcutaneous 
air and required emergent reintubation. Bilateral pneumothoraces 
noted on CXR. Bilateral CTs placed, left CT placed by thoracic 
service. Right pigtail by cardiac surgery. Patient has a history 
of COPD. She had persistent air leaks ongoing left pneumothorax, 
necessitating the placement of left pigtail. She had f/u Chest 
CT which showed large left pneumo and intraparenchymal pigtails 
which were removed after placement of #28 left Chest tube. She 
was successfully weaned and extubated.
Persistent air leaks despite 4 CT system. High O2 requirement, 
aggressive pulmonary toileting. CTs weaned and managed by the IP 
and thoracic services.  Final CT was d/c'd on ___.  During 
her hospital course she was found to have H-flu and was treated 
with 14 day course of IV ceftriaxone (end date ___. She 
remained stable from a pulmonary standpoint. She continues to 
have an oxygen requirement of 5L NC to maintain sats 89-95%. Her 
O2 sat decreases to 70"s on room air when she removes her 
oxygen. Her oxygen saturation recovers quickly when the oxygen 
is replaced. She is asymptomatic during these episodes. 

She has history of anxiety and was restarted in pre-op Xanax and 
pre-op oxycontin. She was doing well for the initial days of her 
recovering but after her ___ extubation she developed post-op 
delirium requiring Haldol. She was aggressively diuresed. Stable 
renal function. She developed thrombocytopenia that has since 
resolved. She developed H-flu pneumonia and was started on 
ceftriaxone. 
Beta blocker was initiated. She remained in SR-ST throughout her 
ICU course.

The patient was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD #24 the patient continues to be oxygen dependent (5L NC), 
was ambulating with assistance , the wound was healing and pain 
was controlled with oral analgesics.  The patient was discharged 
to ___ in ___ in good condition with 
appropriate follow up instructions.
Expected length of stay less than 30 days.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diltiazem Extended-Release 180 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB 
3. Simvastatin 10 mg PO QPM 
4. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
5. Montelukast 10 mg PO DAILY 
6. Potassium Chloride 10 mEq PO BID 
7. Allopurinol ___ mg PO DAILY 
8. Gabapentin 300 mg PO TID 
9. Spironolactone 12.5 mg PO DAILY 
10. Torsemide 20 mg PO BID 
11. OxyCODONE SR (OxyconTIN) 80 mg PO Q12H 
12. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
13. umeclidinium 62.5 mcg/actuation inhalation DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H  
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB/Wheeze  
4.  Aspirin EC 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Bisacodyl ___AILY:PRN constipation  
7.  Docusate Sodium 100 mg PO BID  
8.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
9.  GuaiFENesin ER 1200 mg PO Q12H  
10.  Heparin 5000 UNIT SC BID  
11.  Ipratropium Bromide Neb 1 NEB IH Q6H  
12.  Lactulose 30 mL PO BID:PRN constipation   
13.  Lactulose 30 mL PO DAILY:PRN constipation  
14.  Lidocaine 5% Patch 2 PTCH TD QAM  
15.  Megestrol Acetate 400 mg PO BID  
16.  Metoprolol Tartrate 75 mg PO Q8H  
17.  Multivitamins W/minerals 1 TAB PO DAILY  
18.  Polyethylene Glycol 17 g PO DAILY  
19.  QUEtiapine Fumarate 25 mg PO QHS  
20.  QUEtiapine Fumarate 12.5 mg PO BID:PRN anxiety  
21.  Ranitidine 150 mg PO BID  
22.  Senna 8.6 mg PO BID:PRN constipation  
23.  Allopurinol ___ mg PO DAILY  
24.  Gabapentin 300 mg PO TID  
25.  Montelukast 10 mg PO DAILY  
26.  OxyCODONE SR (OxyconTIN) 80 mg PO Q12H 
RX *oxycodone [OxyContin] 80 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
27.  Spironolactone 12.5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Congestive Heart Failure, diastolic
Haemophilus Influenza Pneumonia 
Mitral Regurgitation 
Mitral Valve Prolapse
Pneumothorax
Pulmonary Hypertension

Breast Cancer status post lumpectomy, radiation and tamoxifen, 
in remission since ___  
Cervical Radiculopathy  
Chronic Obstructive Pulmonary Disease
Hypertension
Osteoarthritis  

 
Discharge Condition:
Alert, oriented, impulsive at times
Deconditioned
Incisional pain managed with oral analgesics (chronic pain 
history)
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema: trace ___

 
Followup Instructions:
___